US04340600
A mixture of 1.85 g. (0.0058 m) of N-(2-methoxybenzyl)-1-(3,4-dimethoxyphenyl)-2-aminoethanol prepared as in Example 3, 4.8 ml of 90% formic acid and 4.5 ml of 37% formaldehyde was heated in a steam bath for 18 hours. The aqueous portion was evaporated and the residue redissolved in water. After making the solution acid with concentrated hydrochloroic acid, the mixture was heated for 20 minutes, cooled, made basic and extracted with chloroform. The organic extract was washed with water, brine then dried. Evaporation gave 1.8 g (93%) of N-(2-methoxybenzyl)-1-(3,4-dimethoxyphenyl)-N-methyl-2-amino ethanol as an oil.

reactant | N-(2-methoxybenzyl)-1-(3,4-dimethoxyphenyl)-2-aminoethanol | COC1=C(CNCC(O)C2=CC(=C(C=C2)OC)OC)C=CC=C1 | C18H23NO4
reactant | formaldehyde | 4.5 ml | C=O | CH2O
solvent | formic acid | 4.8 ml | C(=O)O | CH2O2
product | N-(2-methoxybenzyl)-1-(3,4-dimethoxyphenyl)-N-methyl-2-amino ethanol | 1.8 g, 93% | COC1=C(CN(CC(O)C2=CC(=C(C=C2)OC)OC)C)C=CC=C1 | C19H25NO4
